US07138425B2
g) 2-(3-[6-(2-Tetrahydrofuranylmethylaminocarbonyl)benzoxazol-2-yl]phenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
A solution of 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester (50 mg, 0.09 mmol) in THF (1 ml) was added to a solution of tetrahydrofurfurylamine (14 mg, 0.14 mmol) in THF (1 ml) containing polymer bound morpholine (2.5 mmol g−1, 72 mg). After shaking overnight, polymer bound isocyanate (2.0 mmol g−1, 90 mg) was added and the reaction shaken for 4 h. The reaction was filtered and the solvent removed under reduced pressure. The residue was suspended in dioxane and palladium on carbon was added (spatula tip). The reaction vessel was purged with hydrogen and stirred at room temperature overnight. The reaction was filtered through celite and the filtrate concentrated to give the title compound (27 mg, 59%). 1H NMR (DMSO) δ 8.74(t, 1H), 8.44(dd, 1H), 8.37(m, 2H), 8.31–8.27(m, 3H), 8.12(d, 1H), 7.97(dd, 1H), 7.90(d, 1H), 7.85–7.76(m, 1H), 4.00(m, 2H), 3.79(m, 1H), 3.65(m, 2H), 1.98–1.77(4H, m). MS 510.2 m/z (M−H)−.

reactant | 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(N(C(C2=CC1)=O)C1=CC(=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(=O)Cl)=O | C30H17ClN2O6
reactant | tetrahydrofurfurylamine | 0.14 mmol, 14 mg | C(C1CCCO1)N | C5H11NO
reactant | morpholine | 72 mg | N1CCOCC1 | C4H9NO
reactant | isocyanate | 90 mg | [N-]=C=O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-(3-[6-(2-Tetrahydrofuranylmethylaminocarbonyl)benzoxazol-2-yl]phenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | 27 mg, 59% | O1C(CCC1)CNC(=O)C1=CC2=C(N=C(O2)C=2C=C(C=CC2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C28H21N3O7
